US08106190B2
1 M Hydrochloric acid (0.37 mL) was added to an ethanol solution (1.5 mL) of N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]-2-(cyclohexylamino)-4-(trifluoromethyl)benzamide (220 mg), followed by stirring at room temperature for 5 hours. The reaction liquid was concentrated under a reduced pressure, and a sodium bicarbonate aqueous solution was added to the residue, followed by extraction with ethyl acetate. After drying the organic layer with sodium sulfate, the solution was concentrated under a reduced pressure. By purifying the residue by silica gel column chromatography (hexane:ethyl acetate, 2:1 to 2:3), 2-(cyclohexylamino)-N-[1-(2-hydroxyethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]-4-(trifluoromethyl)benzamide (148 mg) was obtained as a solid.

reactant | Hydrochloric acid | 1 M, 0.37 mL | Cl | ClH
reactant | N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]-2-(cyclohexylamino)-4-(trifluoromethyl)benzamide | 220 mg | [Si](C)(C)(C(C)(C)C)OCCN1C(CCC2=CC=C(C=C12)NC(C1=C(C=C(C=C1)C(F)(F)F)NC1CCCCC1)=O)=O | C31H42F3N3O3Si
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2-(cyclohexylamino)-N-[1-(2-hydroxyethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl]-4-(trifluoromethyl)benzamide | 148 mg | C1(CCCCC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)CCO)=O)C=CC(=C1)C(F)(F)F | C25H28F3N3O3
